US06660744B1
The representative procedure for amide formation was used in the reaction of methyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate (0.025 g, 0.048 mmol) with 3-(dimethylamino)propylamine (1 mL). Purification by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 6.7-7.3 min) afforded N1-[3-(dimethylamino)propyl]-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide as an off-white powder (0.015 g, 0.025 mmol): 1H NMR (DMSO-d6, 400 MHz) δ 8.20 (m, 1H), 7.96 (m, 1H), 7.76 (m, 1H), 7.43 (t, 1H), 7.30 (m, 2H), 4.93 (s, 2H), 3.12 (m, 2H), 2.82 (m, 2H), 2.50 (s, 6H), 1.73 (m, 2H); MS (M−H) 593.

reactant | methyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate | 0.048 mmol, 0.025 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)CC(=O)OC | C20H15Cl2FN6O4S
reactant | 3-(dimethylamino)propylamine | 1 mL | CN(CCCN)C | C5H14N2
product | N1-[3-(dimethylamino)propyl]-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide | 0.025 mmol, 0.015 g | CN(CCCNC(CN1N=C(C=2C1=NC=NC2N)C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)=O)C | C24H25Cl2FN8O3S
